US07211594B2
A. 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile
The title compound was prepared as described in example 161 using 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (1.7 g, 5.55 mmol), in ethylene glycol dimethyl ether (60 mL), 3-amino boronic acid (1.72 g, 11.10 mmol), [1,1′-bis(diphenylphosphino)-ferrocene]complex with dichloromethane (1:1) (0.641 g, 0.555 mmol), and potassium phosphate (5.89 g, 27.75 mmol). A second batch was prepared using 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (2.0 g, 6.53 mmol), in ethylene glycol dimethyl ether (70 mL), 3-amino boronic acid (2.025 g, 13.06 mmol), [1,1′-bis(diphenylphosphino)-ferrocene]complex with dichloromethane (1:1) (0.755 g, 0.653 mmol), and potassium phosphate (6.92 g, 32.65 mmol). The crude compounds were combined and purified by column chromatography using 30% ethyl acetate in hexanes (3.2 g, 82% yield): ES-MS (m/z) 319 [M+H]+.

reactant | 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 5.55 mmol, 1.7 g | BrC1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C13H12BrN3O
reactant | dichloromethane | 0.555 mmol, 0.641 g | ClCCl | CH2Cl2
reactant | potassium phosphate | 27.75 mmol, 5.89 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 6.53 mmol, 2.0 g | BrC1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C13H12BrN3O
reactant | dichloromethane | 0.653 mmol, 0.755 g | ClCCl | CH2Cl2
reactant | potassium phosphate | 32.65 mmol, 6.92 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol dimethyl ether | 60 mL | COCCOC | C4H10O2
solvent | ethylene glycol dimethyl ether | 70 mL | COCCOC | C4H10O2
product | 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C19H18N4O
